US07524847B2
1-Allyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one
A solution of N,N′-disuccinimidyl carbonate (4.46 g) in acetonitrile (400 mL) was added to a solution of N*4*-allyl-2-chloropyridine-3,4-diamine (2.88 g) in acetonitrile. This was then heated under reflux for 70 hours. The solvent was removed under reduced pressure, the residue was dissolved in ethyl acetate (500 mL) and water (300 mL). The organic layer was then washed twice with 100 mL of 1 N hydrochloric acid and then once with 100 mL of saturated aqueous sodium chloride solution. This was then dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and the fraction eluted by ethyl acetate-dichloromethane (1:1) gave the title compound (2.30 g).

reactant | N,N′-disuccinimidyl carbonate | 4.46 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | N*4*-allyl-2-chloropyridine-3,4-diamine | 2.88 g | C(C=C)NC1=C(C(=NC=C1)Cl)N | C8H10ClN3
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 1-Allyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one | 2.30 g | C(C=C)N1C(NC=2C(=NC=CC21)Cl)=O | C9H8ClN3O
